US07820675B2
tert-Butyl[1-(5-nitro-1-benzofuran-7-yl)piperidin-4-yl]carbamate
Xylene (200 mL) was added to 7-iodo-5-nitro-1-benzofuran (2.78 g, 9.61 mmol), tert-butyl piperidin-4-ylcarbamate (2.31 g, 12.0 mmol), Pd2(dba)3 (0.22 g, 0.24 mmol), Xantphos (0.56 g, 0.96 mmol) and sodium tert-butoxide (1.29 g, 13.0 mmol). The mixture was heated at 120° C. with stirring for 16 h. The reaction mixture was allowed to reach room temperature, filtered through a pad of Celite, and concentrated in vacuo. The crude product was purified by flash chromatography, using DCM as eluent, to afford 1.03 g (84%) of the title product. HPLC 94%, RT: 2.770 (System B; 10-97% MeCN over 3 min). 1H NMR (270 MHz, methanol-d4) δ ppm 1.45 (s, 9H) 1.62-1.72 (m, 2H) 1.75-2.03 (m, 2H) 2.94-3.02 (m, 2H) 3.55-3.57 (m, 1H) 3.88-3.93 (m, 2H) 7.01 (d, J=2.23 Hz, 1H) 7.64 (d, J=2.23 Hz, 1H) 7.93 (d, J=2.23 Hz, 1H) 8.13 (d, J=2.23 Hz, 1H). LC-MS 362 (M+H)+.

reactant | 7-iodo-5-nitro-1-benzofuran | 9.61 mmol, 2.78 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | tert-butyl piperidin-4-ylcarbamate | 12.0 mmol, 2.31 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | Xantphos | 0.96 mmol, 0.56 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 13.0 mmol, 1.29 g | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.24 mmol, 0.22 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Xylene | 200 mL | C=1(C(=CC=CC1)C)C | C8H10
product | tert-Butyl[1-(5-nitro-1-benzofuran-7-yl)piperidin-4-yl]carbamate | 1.03 g, 84% | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC(=CC=2C=COC21)[N+](=O)[O-])=O | C18H23N3O5
